US07560558B2
Compound 290: 4-[2-(5-Chloro-4-methyl-thiophen-2-yl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline
4-[2-(4-Bromo-5-chloro-thiophen-2-yl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline (20 mg) was dissolved in dioxane (3 ml) to prepare a solution. Tetrakistriphenylphosphine palladium (25 mg), methylboronic acid (0.1 ml), water (0.3 ml), and cesium carbonate (182 mg) were added to the solution, and the mixture was stirred at 100° C. for 4 days. The reaction solution was filtered, and the solvent was removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using methanol-chloroform to give the title compound (13 mg, yield 76%).

reactant | 4-[2-(4-Bromo-5-chloro-thiophen-2-yl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline | 20 mg | BrC=1C=C(SC1Cl)C1=NC2=CC=CC=C2C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H16BrClN2O3S
reactant | methylboronic acid | 0.1 ml | CB(O)O | CH5BO2
reactant | water | 0.3 ml | O | H2O
reactant | cesium carbonate | 182 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-[2-(5-Chloro-4-methyl-thiophen-2-yl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline | 13 mg, yield 76% | ClC1=C(C=C(S1)C1=NC2=CC=CC=C2C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C25H19ClN2O3S
